US04259324
A solution of 2,3,4-tri-O-acetyl-1-thio-β-L-fucopyranose (2.14 g, 7 mmol) and 2-(1-adamantyl)ethyl iodide (2.03 g, 7 mmol) in dichloromethane (40 ml) containing triethylamine (0.71 g) is kept under nitrogen for 3 days. The reaction mixture is washed successively with N hydrochloric acid, aqueous sodium bicarbonate and water. The dried solution is concentrated to a residue which is taken up in ethanol to remove crystals (0.3 g, 2-(1-adamantyl)ethyl iodide). The mother liquor is put on a silica gel column and eluted with 1% methanol in chloroform. The desired fractions are pooled and evaporated to give 2-(1-adamantyl)ethyl 2,3,4-tri-O-acetyl-1-thio-β-L-fucopyranoside (1.8 g, 66%), [α]D +18° (c, 1.5, chloroform). Deblocking of this material with sodium methoxide in methanol affords the title compound, m.p. 130°-131°, [α]D +31° (c, 1.07, chloroform).

reactant | 2,3,4-tri-O-acetyl-1-thio-β-L-fucopyranose | 7 mmol, 2.14 g | C(C)(=O)O[C@@H]1[C@@H](S)O[C@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)C | C12H18O7S
reactant | 2-(1-adamantyl)ethyl iodide | 7 mmol, 2.03 g | C12(CC3CC(CC(C1)C3)C2)CCI | C12H19I
reactant | triethylamine | 0.71 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-(1-adamantyl)ethyl 2,3,4-tri-O-acetyl-1-thio-β-L-fucopyranoside | 1.8 g, 66% | C(C)(=O)O[C@@H]1[C@@H](SCCC23CC4CC(CC(C2)C4)C3)O[C@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)C | C24H36O7S
